US05462941
0.31 g of 4-chloro-7-(2-thienyl)thieno[2,3-d]pyridazine and 0.48 g of (R)-1-phenylethylamine was dissolved in 2 ml of N-methylpyrrolidone, and the solution was stirred at 150° C. for 10 hours. After cooling the solution, an aqueous 5% KOH solution was added thereto, and the solution was extracted with chloroform and dried. The solvent was distilled off, and the residue was purified by silica gel chromatography to obtain 0.27 g of (R)-4-(1-phenylethylamino)-7-(2-thienyl)-thieno[2,3-d]pyridazine.

reactant | 4-chloro-7-(2-thienyl)thieno[2,3-d]pyridazine | 0.31 g | ClC1=C2C(=C(N=N1)C=1SC=CC1)SC=C2 | C10H5ClN2S2
reactant | (R)-1-phenylethylamine | 0.48 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | KOH | [OH-].[K+]
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | (R)-4-(1-phenylethylamino)-7-(2-thienyl)-thieno[2,3-d]pyridazine | 0.27 g | C1(=CC=CC=C1)[C@@H](C)NC1=C2C(=C(N=N1)C=1SC=CC1)SC=C2 | C18H15N3S2
